US06407116B1
1-(3-Chloropropyl)-2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline
To a suspension of sodium hydride (60% in oil, 0.34 g) in N,N-dimethylformamide (30 ml), 2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline (2.0 g) obtained in Reference Example 26 was added, and the mixture was stirred at room temperature for 30 minutes. To this mixture, 1-bromo-3-chloropropane (1.05 ml) was added and the mixture was stirred for further 13.5 hours. The solvent was distilled off under reduced pressure, and the residue was combined with iN hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried (Na2SO4), and the solvent was distilled off under reduced pressure. The residue was subjected to a column chromatography on a silica gel eluting with n-hexane-ethyl acetate (5:1, v/v) to give the title compound (1.58 g, 62%). Recrystallization from ethyl acetate-isopropyl ether yielded a colorless crystal having a melting point of 124 to 125° C.

reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | 2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline | 2.0 g | O=C1NC2=CC=CC=C2C(N1CC1=CC=C(C=C1)OC)=O | C16H14N2O3
reactant | 1-bromo-3-chloropropane | 1.05 ml | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(3-Chloropropyl)-2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline | 1.58 g, 62% | ClCCCN1C(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)OC)=O | C19H19ClN2O3
